US06960598B2
2-Fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenol (50.0 mg, 0.16 mmol), resin-bound triphenylphosphine (180 mg of 3 mmol/g resin, 5.4 mmol), diisopropylazodicarboxylate (76.8 μL, 78.8 mg, 0.40 mmol) and 1-methyl-1H-1,2,3-triazole-4-methanol (prepared as described in WO 0023449, 22.0 mg, 0.20 mmol) were stirred together in THF (3 mL) at room temperature overnight. The mixture was filtered, and the filtrate was diluted with dichloromethane (15 mL), was washed with 1 N sodium hydroxide (2×10 mL), was dried over magnesium sulfate and was concentrated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with 2.5% methanol in dichloromethane, affording 5-[4-fluoro-3-(1-methyl-1H-[1,2,3]triazol-4-ylmethoxy)phenyl]-2-trifluoromethyl[1,8]naphthyridine as a colourless solid, which was recrystallised from ethyl acetate/isohexane (26.7 mg, 41%). δH (360 MHz, CDCl3) 4.13 (3H, s), 5.35 (2H, s), 7.03-7.07 (1H, m), 7.25-7.31 (1H, m), 7.38 (1H, dd, J 2.1 and 7.7), 7.54 (1H, d, J 4.6), 7.70 (1H, s), 7.86 (1H, d, J 8.8), 8.53 (1H, d, J 8.8), 9.26 (1H, d, J 4.2). m/z (ES+) 404 [MH]+.

reactant | 2-Fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenol | 0.16 mmol, 50.0 mg | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)O | C15H8F4N2O
reactant | triphenylphosphine | 5.4 mmol, 180 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.40 mmol, 76.8 μL, 78.8 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 1-methyl-1H-1,2,3-triazole-4-methanol | 0.20 mmol, 22.0 mg | CN1N=NC(=C1)CO | C4H7N3O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-[4-fluoro-3-(1-methyl-1H-[1,2,3]triazol-4-ylmethoxy)phenyl]-2-trifluoromethyl[1,8]naphthyridine | FC1=C(C=C(C=C1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F)OCC=1N=NN(C1)C | C19H13F4N5O
